US09061067B2
A solution of 4-cyanobenzoyl chloride (2.29 g, 13.8 mmol) in dioxane (10 ml) was added to a suspension of 4-(4′-(N-hydroxycarbamimidoyl)biphenyl-4-yloxy)butyric acid (3.23 g, 9.6 mmol) in dioxane (50 ml) and pyridine (2.5 ml, 31.6 mmol). The mixture was stirred at room temperature for 4 h, and then heated to 100° C. for 22 h. The mixture was concentrated to ½ of its original volume, diluted with water (100 ml), and acidified by addition of concentrated hydrochloric acid (3 ml). The product was isolated by filtration and washed with water (50 ml). The solid was suspended in MeCN (70 ml), heated to reflux, allowed to cool, filtered off, and dried under reduced pressure to yield 3.17 g (54%) of 4-(4′-{5-[4-cyanophenyl]-[1,2,4]oxadiazol-3-yl}biphenyl-4-yloxy)butyric acid as a solid.

reactant | 4-cyanobenzoyl chloride | 13.8 mmol, 2.29 g | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
reactant | 4-(4′-(N-hydroxycarbamimidoyl)biphenyl-4-yloxy)butyric acid | 9.6 mmol, 3.23 g | ONC(=N)C1=CC=C(C=C1)C1=CC=C(C=C1)OCCCC(=O)O | C17H18N2O4
reactant | pyridine | 31.6 mmol, 2.5 ml | N1=CC=CC=C1 | C5H5N
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 4-(4′-{5-[4-cyanophenyl]-[1,2,4]oxadiazol-3-yl}biphenyl-4-yloxy)butyric acid | 3.17 g, 54% | C(#N)C1=CC=C(C=C1)C1=NC(=NO1)C1=CC=C(C=C1)C1=CC=C(C=C1)OCCCC(=O)O | C25H19N3O4
